US09216993B2
To a solution of 116 mg of 6-methoxy-5-methyl-1H-indole-2-carbonitrile (0.62 mmol) in 2 mL of acetonitrile 0.171 mL of di-tert-butyl dicarbonate (0.74 mmol) and 20 mg of DMAP (0.24 mmol) were added and stirred at room temperature for 30 min. The solvent was removed in vacuo, and the resultant crude product was purified by column chromatography (silica gel) using hexane-ethyl acetate 10:1 as an eluent to afford 174 mg of tert-butyl 2-cyano-6-methoxy-5-methyl-1H-indole-1-carboxylate.

reactant | 6-methoxy-5-methyl-1H-indole-2-carbonitrile | 0.62 mmol, 116 mg | COC1=C(C=C2C=C(NC2=C1)C#N)C | C11H10N2O
reactant | di-tert-butyl dicarbonate | 0.74 mmol | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
catalyst | DMAP | 0.24 mmol, 20 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | tert-butyl 2-cyano-6-methoxy-5-methyl-1H-indole-1-carboxylate | 174 mg | C(#N)C=1N(C2=CC(=C(C=C2C1)C)OC)C(=O)OC(C)(C)C | C16H18N2O3
